US08604031B2
A degassed mixture of 1-[3-(2-Chloro-pyridin-4-yl)-phenyl]-ethanone (500 mg, 2.16 mmol), benzamide (523 mg, 4.32 mmol, 2 eq.), Xantphos (120 mg, 0.21 mmol, 0.1 eq.), Pd(OAc)2 (24 mg, 0.10 mmol, 0.05 eq.), K2CO3 (448 mg, 3.24 mmol, 1.5 eq.) in dioxane (12 mL) was irradiated with microwaves at 150° C. for 1 hour. LC/MS control. Conversion was mostly 100% based on disappearance of starting material. Dimer (M+: 392) being the major by-product. If any starting material is unreacted at this point, another portion of Xantphos and Pd(OAc)2 may be added and the mixture microwaved for another 30 minutes. The mixture was then partitioned between DCM and water (20 mL/10 mL). The layers were separated and the aqueous layer was washed further with DCM (2×20 mL). The combined organic layer was dried (Na2SO4) and filtered. The filtrate was concentrated and the residue was chromatographed using 1/1 Hexane/EtOAc to give N-[4-(3-Acetyl-phenyl)-pyridin-2-yl]-benzamide as a white solid (375 mg, 55%). MS: m/z 317.1 [MH+].

reactant | 1-[3-(2-Chloro-pyridin-4-yl)-phenyl]-ethanone | 2.16 mmol, 500 mg | ClC1=NC=CC(=C1)C=1C=C(C=CC1)C(C)=O | C13H10ClNO
reactant | benzamide | 4.32 mmol, 523 mg, 2 eq. | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | Xantphos | 0.21 mmol, 120 mg, 0.1 eq. | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | K2CO3 | 3.24 mmol, 448 mg, 1.5 eq. | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 12 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.10 mmol, 24 mg, 0.05 eq. | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | N-[4-(3-Acetyl-phenyl)-pyridin-2-yl]-benzamide | 375 mg, 55% | C(C)(=O)C=1C=C(C=CC1)C1=CC(=NC=C1)NC(C1=CC=CC=C1)=O | C20H16N2O2
